US08980892B2
To a solution of 4-[5-(3,5-dichloro-phenyl)-2-methyl-5-trifluoromethyl-isoxazolidin-3-yl]-2-methyl-benzoic acid tert-butyl ester (Example I4) (0.67 g) in dichloromethane (15 ml) was added trifluoroacetic acid (“TFA”) (1.05 ml). The reaction mixture was stirred at ambient temperature for 16 hours. The dichloromethane was evaporated and ethyl acetate was added. The mixture was washed with water, dried over sodium sulfate and concentrated. The residue was purified by preparative HPLC to give 4-[5-(3,5-dichloro-phenyl)-2-methyl-5-trifluoromethyl-isoxazolidin-3-yl]-2-methyl-benzoic acid as a mixture of diastereoisomers (0.56 g). 1H-NMR (CDCl3, 400 MHz): 8.05 (m, 1H), 7.45-7.15 (m, 5H), 3.90-3.60 (m, 1H), 3.35-2.60 (m, 9H).

reactant | 4-[5-(3,5-dichloro-phenyl)-2-methyl-5-trifluoromethyl-isoxazolidin-3-yl]-2-methyl-benzoic acid tert-butyl ester | 0.67 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)C1N(OC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)C)=O | C23H24Cl2F3NO3
reactant | trifluoroacetic acid | 1.05 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 4-[5-(3,5-dichloro-phenyl)-2-methyl-5-trifluoromethyl-isoxazolidin-3-yl]-2-methyl-benzoic acid | ClC=1C=C(C=C(C1)Cl)C1(CC(N(O1)C)C1=CC(=C(C(=O)O)C=C1)C)C(F)(F)F | C19H16Cl2F3NO3
